US07763621B2
Stage b) Synthesis of (1,1-dimethylethyl) 3-[[6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-5-methyl-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate
A mixture of 370 mg (0.88 mmoles) of (1,1-dimethylethyl) 3-[(6-chloro-5-methyl-4-pyrimidinyl)amino]-N-[(phenylmethoxy)carbonyl]alaninate and 1.0 g (1.79 mmoles) of 1,2,3,4-tetrahydro-7-(4-piperidinyl)-1,8-naphthyridine, tris (trifluoroacetate) (prepared according to Patents EP 1065207 or WO 0078317) in 1 ml of diisopropylethylamine is heated at 120° C. for 2 hours. Then 10 ml of xylene is added and the medium is taken to reflux for 4 hours. The reaction medium is taken up in a mixture of water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is decanted and the aqueous phase is reextracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate and evaporated to dryness under vacuum and the residue is chromatographed on silicagel with a gradient of 100% ethyl acetate to a mixture of ethyl acetate-methanol-triethylamine-dichloromethane 50-10-10-50.32 mg (Yield=6%) of expected product is obtained and 200 mg (54%) of chlorinated starting product is recovered.

reactant | (1,1-dimethylethyl) 3-[(6-chloro-5-methyl-4-pyrimidinyl)amino]-N-[(phenylmethoxy)carbonyl]alaninate | 0.88 mmoles, 370 mg | ClC1=C(C(=NC=N1)NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C | C20H25ClN4O4
reactant | 1,2,3,4-tetrahydro-7-(4-piperidinyl)-1,8-naphthyridine | 1.79 mmoles, 1.0 g | N1CCC(CC1)C1=CC=C2CCCNC2=N1 | C13H19N3
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diisopropylethylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
solvent | ethyl acetate methanol triethylamine dichloromethane | C(C)(=O)OCC.CO.C(C)N(CC)CC.ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1,1-dimethylethyl) 3-[[6-[4-(1,2,3,4-tetrahydro-1,8-naphthyridin-7-yl)-1-piperidinyl]-5-methyl-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate | Yield=6% | N1CCCC2=CC=C(N=C12)C1CCN(CC1)C1=C(C(=NC=N1)NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C | C33H43N7O4
